US05284828
Finely powdered potassium carbonate (5.8 g) was suspended in a solution of 2-(aminomethyl)pyridine (3.0 g) and ethyl bromoacetate (3.1 ml) in dimethylformamide (30 ml). The mixture was stirred at room temperature overnight, then poured into ice water. The mixture was extracted with ethyl acetate (50 ml×2) and the organic layer was washed with saturated sodium chloride solution (2 times), dried over magnesium sulfate, and evaporated in vacuo. The residue was purified with a silica gel column chromatography (MeOH:CHCl3 =1:99 as an eluent) to give N-(ethoxycarbonylmethyl)-N-(pyridin-2-ylmethyl)amine (2.30 g).

reactant | potassium carbonate | 5.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(aminomethyl)pyridine | 3.0 g | NCC1=NC=CC=C1 | C6H8N2
reactant | ethyl bromoacetate | 3.1 ml | BrCC(=O)OCC | C4H7BrO2
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | N-(ethoxycarbonylmethyl)-N-(pyridin-2-ylmethyl)amine | 2.30 g | C(C)OC(=O)CNCC1=NC=CC=C1 | C10H14N2O2
